US07595327B2
1-Formyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-4-carboxylic acid hydroxyamide
According to the procedure of Example 29, Step 2, 0.4 g (0.878 mmol) of 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid hydroxylamine and formic acid gave a mixture of cis- and trans-1-formyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl amino]-piperidine-4-carboxylic acid hydroxyamide as an amorphous white solid (0.035 g, 8%) after reverse phase HPLC (Gilson) on a Phenomex C-18 semi-prep column, eluting with an acetonitrile:water gradient. MS: 499 (M+H)+

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-3-carboxylic acid hydroxylamine | 0.878 mmol, 0.4 g | NO.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)NC1C(CNCC1)C(=O)O
reactant | formic acid | C(=O)O | CH2O2
product | 1-Formyl-3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-4-carboxylic acid hydroxyamide | ONC(=O)C1C(CN(CC1)C=O)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C24H26N4O6S
